* C:\users\martin\Documents\utn\TC2_Tareas\Tarea_2_10db.asc
R1 N001 N002 1
Vin N002 0 AC 1
XU1 N004 N003 Vo1 opamp Aol=100K GBW=10Meg
R2 N003 N001 1
C1 N003 0 1
C2 Vo1 N001 1
R3 N004 0 1
R4 Vo1 N004 0,07
XU2 N005 Vo1 N005 opamp Aol=100K GBW=10Meg
R1_2 N006 N005 1
R2_2 Vo2 N006 1
R3_2 N007 N006 1
R4_2 N008 N007 1
R5_2 N010 N009 1
R7_2 0 N011 0,892
R6_2 N011 N009 1
C1_2 N009 N008 1
XU1_1 N006 N011 N007 opamp Aol=100K GBW=10Meg
XU2_2 N008 0 N009 opamp Aol=100K GBW=10Meg
XU3_3 N010 0 Vo2 opamp Aol=100K GBW=10Meg
C2_2 Vo2 N010 1
XU3 N015 Vo2 N012 opamp Aol=100K GBW=10Meg
R3_3 N013 N012 2
R1_3 Vo3 N013 1
R2_3 N014 N013 3
C2_3 Vo3 N014 0,172
C1_3 N013 0 5,814
XU1_3 N014 0 Vo3 opamp Aol=100K GBW=10Meg
Rg N015 0 1
Rf N012 N015 1,823
.ac dec 100 0.01 10
.lib opamp.sub
.backanno
.end
